US08258130B2
A solution of 4-methyl-2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-nitro-indol-1-yl)-amide (1.64 mmol) in MeOH (45 mL) and 10% Pd/C (0.16 mmol) is hydrogenated in a 500 mL Parr bottle under 50 psi at rt overnight. Pd/C is filtered off. The filtrate is concentrated to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-amino-indol-1-yl)-amide (545 mg, 92%) as a solid. MS: 362 (M+H); 1H NMR (300 MHz, CD3OD): δ 3.84(s, H), 6.37(d, H), 6.81(dd, H), 7.01(d, H), 7.16-7.36(m, 3H), 7.55(m, H), 8.23(d, H), 8.36(d, H), 9.50(s, H).

reactant | 4-methyl-2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-nitro-indol-1-yl)-amide | 1.64 mmol | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C20H14FN5O3
solvent | MeOH | 45 mL | CO | CH4O
catalyst | Pd/C | 0.16 mmol | [Pd] | Pd
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-amino-indol-1-yl)-amide | 545 mg, 92% | NC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C20H16FN5O
